US04232010
Synthesis of 4-(benzothiazol-2-yl) toluene
125 g (1 mol) of o-aminothiophenol, 136 g (1 mol) of p-toluic acid and 600 g of polyphosphoric acid were admixed and stirred into nitrogen gas at 170°-200° C. for 4 hours. After the reaction mixture was cooled to 100° C., it was poured in 5 l of water. The mixture was adjusted to pH 5 with NaOH and the resulting crystals were filtered off, whereupon 220 g of 4-(benzothiazol-2-yl) toluene was obtained as crude crystals. Recrystallization from n-hexane gave 172 g of pure product as colorless prisms melting at 84°-85° C.

reactant | o-aminothiophenol | 1 mol, 125 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | p-toluic acid | 1 mol, 136 g | CC=1C=CC(=CC1)C(=O)O | C8H8O2
reactant | NaOH | [OH-].[Na+]
solvent | water | 5 l | O | H2O
product | 4-(benzothiazol-2-yl) toluene | 172 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)C | C14H11NS
